.subckt CD4046 sigin phcmpii phcmpi phpls compin vcoin
+              r1 r2 ce1 ce2 vcoout demout inhibit zener vdd vss
+                   OPTIONAL: DPWR=$G_DPWR DGND=$G_DGND
+                   PARAMS: MNTYMXDLY=0 IO_LEVEL=0
+                   Rin=1Meg S1=1  S2=0.5 M1=0.5 M2=1.0 Vx=10
+                   Kb=1 Vfree=0.0 Kc=-0.1 Vt=1.2 Vxqr=10

* Rin  = VCO Input Resistace
* S1   = Voltage Limiter linear slope
* S2   = Voltage Limiter non-linear slope
* Vx   = Input threshold voltage (between S1 and S2)
* Kb   = Arbitrary constant to adjust the value of the conversion gain (transimpedance gain)
* Vfree= Frequency dependent constant in Emult
* Kc   = Negative inverse amplitude of the square wave
* Vt   = Trigger voltage of Schmitt trigger (not used)
* Vxqr = Amplitude of square wave (not used)
* M1   = Current mirror multiplier to adjust oscillator frequency
* M2   = Current mirror multiplier to adjust oscillator frequency

* Preliminary model still under development based on Natinal Semiconductor CD4046BM
* RAPerez 9/98

* Phase detector section

U1 INVA(4) DPWR DGND sigin compin isigin icompin
+                    isigin icompin clk1 clk2
+ INVA_TIMING IO_HCT
+ MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

.MODEL INVA_TIMING UGATE

U2 XOR DPWR DGND isigin icompin xorout
+ XOR_TIMING IO_HCT
+ MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

.MODEL XOR_TIMING UGATE
***tplhty=20n tphlty=20n

U3 NAND(2) DPWR DGND q1 q2 pclr
+ NAND_TIMING IO_HCT
+ MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

.MODEL NAND_TIMING UGATE (tplhty=1n tphlty=1n)

U4 DFF(1) DPWR DGND $D_HI clr clk1 $D_HI q1 qb1
+ DFF1_TIMING IO_HCT
+ MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

.MODEL DFF1_TIMING UEFF tppcqlhty=4n tppcqhlty=4n tpclkqlhty=4n tpclkqhlty=4n

U5 DFF(1) DPWR DGND $D_HI clr clk2 $D_HI q2 qb2
+ DFF2_TIMING IO_HCT
+ MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

.MODEL DFF2_TIMING UEFF tppcqlhty=5n tppcqhlty=5n tpclkqlhty=5n tpclkqhlty=5n

U7 BUFA(2) DPWR DGND fq1 fq2 s1 s2
+ BUFA_TIMING IO_HCT
+ MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

.MODEL BUFA_TIMING UGATE

ST2 vdd phcmpii s1 0 swt
SB2 phcmpii vss s2 0 swt

.model swt VSWITCH (ROFF=2G RON=10m VOFF=0.8 VON=3.0)

U6 AND(2) DPWR DGND pclr reset clr
+ AND_TIMING IO_HCT
+ MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

.MODEL AND_TIMING UGATE

Ureset STIM(1,1) DPWR DGND
+ reset
+ IO_HCT
+   +0s 0
+   2ns 1
+   1s 1

U8 NOR(2) DPWR DGND fq1 fq2 norout
+ NOR_TIMING IO_HCT
+ MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

.MODEL NOR_TIMING UGATE

U9 ANDA(2,2) DPWR DGND q1 od1 q2 od2 fq1 fq2
+ ANDA_TIMING IO_HCT
+ MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

.MODEL ANDA_TIMING UGATE

U10 DLYLINE DPWR DGND q1 od1
+ DLY_TIMING IO_HCT
+ MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
U11 DLYLINE DPWR DGND q2 od2
+ DLY_TIMING IO_HCT
+ MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

.MODEL DLY_TIMING UDLY dlyty=12n

U12 BUFA(3) DPWR DGND norout xorout vcosqr phpls phcmpi vcoout
+ BUFB_TIMING IO_HCT
+ MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

.MODEL BUFB_TIMING UGATE

* VCO Section

Rin vcoin vss {Rin}
Evlim vlim 0 value={if(v(vcoin,vss)<v(vdd,vss),
+                   S1*v(vcoin,vss),S2*(v(vcoin,vss)-v(vdd,vss))+v(vdd,vss))}
Rvlim vlim 0 1Meg
Emult mix 0 value={v(vlim)*Kb+Vfree}
*Hmult mix 0 poly(1) Vcm 1.44 0.586
Rmult mix 0 1

Edemout demout 0 table={ 200Meg*v(vcoin,demout)*v(off) } (-20,-20) (20,20)
Rdemout demout 0 1Meg
ER2 ir2 0 vdd ir2 200Meg
VR2 ir2 r2
ER1 ir1 0 mix ir1 200Meg
VR1 ir1 r1
Eosclg adj 0 table={abs((V(vdd)/I(VR2))/(V(mix)/I(VR1)))}
+ (0.5,1.43) (1,1.6) (10,1.04) (50,0.67) (100,0.84) (101,1)
+ (102,1) (1000,1)
Radj adj 0 1G
*GIM ce1 0 value={(M1*I(VR1)+M2*I(VR2))*Kc*V(sqrrc)}
GIM ce1 0 value={(M1*I(VR1)*V(adj)+M2*I(VR2))*Kc*V(sqrrc)}
*GIM ce1 0 value={(24*I(VR1)+3.067*I(VR2))}
Vcext ce2 0
Cstray ce1 ce2 6p
Rcext ce1 ce2 1T
Etrngl trngl 0 ce1 0 1
Rtrngl trngl 0 1Meg

Esqr sqr 0 value={-10Meg*V(trngl)+1.2Meg*V(sqrrc)}

Rsqr sqr sqrrc 0.1T
Csqr sqrrc 0 10f
Dsqr1 sqrrc 13 Diode
Vsqr1 13 0 {Vx}
Dsqr2 14 sqrrc Diode
.model Diode D (IS=10u N=0.1 CJO=80f RS=1m)
*.model Diode D (IS=10u N=0.001 CJO=80f)
Vsqr2 14 0 {-Vx}
Ipls 0 sqrrc pwl 0 0 10n 0 20n 0.01u 0.1u 0.01u 0.12u 0 1 0
Evcoout vcosqr 0 table={5.0*v(off)*(v(sqrrc)/Vx)} (0.1,0.1) (4.5,4.5)
*Rvcoout vcosqr vcosqr1 1

**Et 7 0 TABLE {-10k*V(trngl)+1.2k*V(sqrrc)} (-2,-10) (2,10)
*Ipls 0 sqrrc pwl 0 0 10n 0 20n 1u 0.1u 1u 0.12u 0 1 0
*Et 7 0 value={table({-10Meg*V(trngl)+1.2Meg*V(sqrrc)},-10,{-Vx},10,{Vx})}
*Ro 7 sqrrc 100
*Co sqrrc 0 100p

*Est sqrrc o VALUE={table({2000k*(V(st)-V(trngl))},-2,{-Vx},2,{Vx})}
*Rst1 sqrrc st 8.8k
*Rst2 st 0 1.2k
*Cst st 0 200p ic=-10

Rinhbt inhibit 0 1Meg
Eoff off 0 value={if(v(inhibit)<0.9,1.0,0.0)}
Roff off 0 1Meg

Dzener vss zener znr
Rzener vss zener 1G
.model znr D(Is=1.004f Rs=.5875 Ikf=0 N=1 Xti=3 Eg=1.11 Cjo=160p M=.5484
+  Vj=.75 Fc=.5 Isr=1.8n Nr=2 Bv=5.2 Ibv=27.721m Nbv=1.1779
+  Ibvl=1.1646m Nbvl=21.894 Tbv1=176.47u)

.ends
